US05063197
18.3 g of p-hydroxybenzaldehyde is dissolved in 200 ml of methyl ethyl ketone, and then 22.8 g of potassium carbonate and 24.2 g of m-chlorobenzyl chloride are added thereto. The resulting mixture is refluxed for 8 hours in a stream of nitrogen. Insoluble substances produced are removed by filtration, and then the solvent is distilled away. The resulting residue is distilled under reduced pressure to obtain 32.6 g of 4-(3-chlorobenzyloxy)benzaldehyde in the form of white crystal.

reactant | p-hydroxybenzaldehyde | 18.3 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 22.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-chlorobenzyl chloride | 24.2 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | 4-(3-chlorobenzyloxy)benzaldehyde | 32.6 g | ClC=1C=C(COC2=CC=C(C=O)C=C2)C=CC1 | C14H11ClO2
